US07384929B2
5-Isopropoxy-3-pyridinylboronic acid
To a stirred, −78° C. solution of 2.5 M n-butyllithium (44.0 mL, 110 mmol) in toluene (120 mL) was slowly added a solution of 3-bromo-5-isopropoxypyridine (21.6 g, 100 mmol) in toluene (40 mL) while maintaining the temperature below −50° C. After the addition was complete, the reaction was stirred at −78° C. for 30 min. Distilled THF (40 mL) was added, and the reaction stirred for 15 min at −78° C., followed by the addition of triisopropylborate (27.7 mL, 120 mmol) in one portion. After warming to −15° C., the reaction was quenched with 1M HCl (260 mL), and stirred for one hour. The mixture was then neutralized (to pH 7) with 5 M NaOH and extracted with THF (4×100 mL). The combined extracts were dried (Na2SO4), filtered and concentrated. The residue was dissolved in 1:1 THF/MeOH, filtered, concentrated, and dissolved in warm acetonitrile. Upon cooling, the acetonitrile solution deposited a light brown powder, which was collected by filtration and vacuum dried (8.94 g, 49%).

reactant | n-butyllithium | 110 mmol, 2.5 M, 44.0 mL | C(CCC)[Li]
reactant | 3-bromo-5-isopropoxypyridine | 100 mmol, 21.6 g | BrC=1C=NC=C(C1)OC(C)C | C8H10BrNO
reactant | THF | 40 mL | C1CCOC1 | C4H8O
reactant | triisopropylborate | 120 mmol, 27.7 mL | C(C)(C)OB(OC(C)C)OC(C)C | C9H21BO3
solvent | toluene | 120 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
product | 5-Isopropoxy-3-pyridinylboronic acid | C(C)(C)OC=1C=C(C=NC1)B(O)O | C8H12BNO3
